US07576094B2
To a solution of 2,6-dimethylhydroquinone (2.36 g) and BF3-ether (4.47 mL) in dioxane (10 mL) was added 1-vinyl-cyclobutanol (1.58 g) in dioxane (5 mL) over 50 min at 110° C. under nitrogen. The reaction was refluxed for one additional hour. The solution was diluted with ethyl acetate and washed with water and brine, dried and evaporated. The residue was chromatographed (silica gel, hexane-ethyl acetate 1% to 5%) gave 1.36 g of 5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol.

reactant | 2,6-dimethylhydroquinone | 2.36 g | CC1=C(O)C(=CC(=C1)O)C | C8H10O2
reactant | 1-vinyl-cyclobutanol | 1.58 g | C(=C)C1(CCC1)O | C6H10O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | 1.36 g | CC1=C2CCC3(CCC3)OC2=CC(=C1O)C | C14H18O2
